US05972935
5-(Benzyloxycarbonyl)-N,N-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]indol-3-ylacetamide
5-(Benzyloxycarbonyl)-2,3,6,7-tetrahydrofuro[2,3-f]indol-3-ylacetic acid (D22, 0.89 g, 2.5 mmol) and triethylamine (0.7 ml, 5 mmol) were stirred in dichloromethane (80 ml) under Ar at 0° C. as ethyl chloroformate (0.27 ml, 92.8 mmol) was added. The mixture was stirred for 2 h, and dimethylamine gas was then bubbled through the solution for 10 min. It was then washed with water, K2CO3 solution and brine, dried (Na2SO4) and evaporated. Chromatography of the crude product on silica, eluting with 75% ethyl acetate/petroleum ether (b.p. 60-80° C.) gave the title compound (0.44 g, 46%) as an off-white solid.

reactant | 5-(Benzyloxycarbonyl)-2,3,6,7-tetrahydrofuro[2,3-f]indol-3-ylacetic acid | 2.5 mmol, 0.89 g | C(C1=CC=CC=C1)OC(=O)N1CCC=2C=C3C(=CC12)C(CO3)CC(=O)O | C20H19NO5
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 92.8 mmol, 0.27 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-(Benzyloxycarbonyl)-N,N-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]indol-3-ylacetamide | 0.44 g, 46% | C(C1=CC=CC=C1)OC(=O)N1CCC=2C=C3C(=CC12)C(CO3)CC(=O)N(C)C | C22H24N2O4
